US09447078B2
Preparation of (R)-3-amino-1-(6-(2-ethylbutoxy)pyridin-2-yl)propan-1-ol
Borane reduction of 3-(6-(2-ethylbutoxy)pyridin-2-yl)-3-oxopropanenitrile following the method described in Example 6 gave after flash chromatography purification (25%-30% 7N NH3/MeOH—CH2Cl2 gradient) Example 30 as a colorless oil. Yield (0.11 g, 25%); 1H NMR (400 MHz, DMSO-d6) δ 7.61 (t, J=7.6 Hz, 1H), 7.0 (d, J=7.6 Hz, 1H), 6.57 (d, J=8.4 Hz, 1H), 4.57-4.50 (m, 1H), 4.15-4.06 (m, 2H), 2.70-2.58 (m, 2H), 1.84-1.76 (m, 1H), 1.64-1.52 (m, 2H), 1.42-1.28 (m, 4H), 0.85 (t, J=7.2 Hz, 6H); RP-HPLC tR=8.51 min; ESI-MS m/z 253.2 [M+H]+.

reactant | Borane | B | BH3
reactant | 3-(6-(2-ethylbutoxy)pyridin-2-yl)-3-oxopropanenitrile | C(C)C(COC1=CC=CC(=N1)C(CC#N)=O)CC | C14H18N2O2
reactant | NH3 MeOH CH2Cl2 | 7N | N.CO.C(Cl)Cl
product | (R)-3-amino-1-(6-(2-ethylbutoxy)pyridin-2-yl)propan-1-ol | NCC[C@@H](O)C1=NC(=CC=C1)OCC(CC)CC | C14H24N2O2
